*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXE500ARA680MHA0G
*//   Date        : 2020/12/21
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXE500ARA680MHA0G_20deg-C 1 2

C1 4 2 5.78e-05
C2 5 2 9.74e-07
C3 6 2 3.90e-06
R1 3 4 1.02e-02
R2 4 5 2.97e-01
R3 5 6 1.80e+00
L1 1 3 3.70e-09

.ENDS
*$
